US06872690B2
Preparation of 4-methyl-6-(4-fluorophenylethynyl)-2-(1-methyl-3-trifluoromethylpyrazol-5-yloxy)-pyridine
To a solution of 4-methyl-6-ethynyl-2-(1-methyl-3-trifluorome-thylpyrazol-5-yloxy)pyridine (1 g, 3.55 mmol) in diisopropylamine (20 ml) under a nitrogen atmosphere are added 4-trifluoromethyl-iodobenzene (1.11 g, 5 mmol), bistriphenylphosphine palladium dichloride (0.12 g, 0.177 mmol) and copper iodide (0.02, 0.1 mmol) and the mixture is heated at 70 ° C. for 30 min. After cooling, the reaction mixture is diluted with pentane : ethyl acetate 1:1 and the organic phase is washed with water, diluted hydrochloric acid and a saturated aqueous solution of sodium bicarbonate and dried. 81% of the product (1.1 g, mp. 86-87° C.) is obtained by flash chromatography.

reactant | 4-methyl-6-ethynyl-2-(1-methyl-3-trifluorome-thylpyrazol-5-yloxy)pyridine | 3.55 mmol, 1 g | CC1=CC(=NC(=C1)C#C)OC1=CC(=NN1C)C(F)(F)F | C13H10F3N3O
reactant | 4-trifluoromethyl-iodobenzene | 5 mmol, 1.11 g | FC(C1=CC=C(C=C1)I)(F)F | C7H4F3I
reactant | diisopropylamine | 20 ml | C(C)(C)NC(C)C | C6H15N
solvent | pentane ethyl acetate | CCCCC.C(C)(=O)OCC
catalyst | copper iodide | 0.1 mmol | [Cu](I)I
product | 4-methyl-6-(4-fluorophenylethynyl)-2-(1-methyl-3-trifluoromethylpyrazol-5-yloxy)-pyridine | 1.1 g, 81% | CC1=CC(=NC(=C1)C#CC1=CC=C(C=C1)F)OC1=CC(=NN1C)C(F)(F)F | C19H13F4N3O
